US04133809
4-Hydroxy-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one
3.5 g of 4-acetoxy-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one and 2.8 ml of 4N aqueous sodium hydroxide in 160 ml of ethanol are stirred overnight at 25°. The reaction is neutralized with 0.5 g of acetic acid and the solvent is evaporated. The residue is partitioned between chloroform and water, the organic phase is dried and the solvent evaporated to give the title compound.

reactant | 4-acetoxy-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one | 3.5 g | C(C)(=O)OC1C=2N(C3=C(N(C1=O)C1=CC=CC=C1)C=C(C=C3)Cl)C=NN2 | C18H13ClN4O3
reactant | sodium hydroxide | 4N, 2.8 ml | [OH-].[Na+]
reactant | acetic acid | 0.5 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 4-Hydroxy-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one | OC1C=2N(C3=C(N(C1=O)C1=CC=CC=C1)C=C(C=C3)Cl)C=NN2 | C16H11ClN4O2
